US06388088B1
A solution of 2-nitro-4-bromoaniline (7.07 g, 32.6 mmol) in dry tetrahydrofuran (33 mL) was cooled to 0° C. and then treated with acetic anhydride (6.66 g, 65.2 mmol). The reaction mixture was stirred at 0° C. for 110 min and then allowed to warm to 25° C. The reaction mixture was stirred at 25° C. for 15 h, at which time, thin layer chromatography analysis of the reaction mixture indicated the presence of only starting material. The reaction mixture was then slowly treated with acetyl chloride (5 mL) and pyridine (5 mL) at 25° C. The resulting orange suspension was stirred at 25° C. for 2 h and then treated with water (50 mL). The organic compound was extracted into ethyl acetate (2×70 mL). The combined extracts were washed with a 3N aqueous hydrochloric acid solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford a yellow solid. The yellow solid was treated with diethyl ether (50 mL) and hexanes (50 mL). The solid was collected by filtration and washed with hexanes to afford N-(4-bromo-2-nitro-phenyl)-acetamide (6.82 g, 81%) as a yellow solid: mp 100-102° C.; EI-HRMS m/e cared for C8H7BrN2O3 (M+) 257.9640, found 257.9641.

reactant | 2-nitro-4-bromoaniline | 32.6 mmol, 7.07 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)Br | C6H5BrN2O2
reactant | acetic anhydride | 65.2 mmol, 6.66 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 33 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | N-(4-bromo-2-nitro-phenyl)-acetamide | 6.82 g, 81% | BrC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7BrN2O3
